US05717096
Preparation of 2-isopropoxy-6-(trifluoromethyl)pyrimidin-4-ol
11.25 g (263 mmol; 1.05 eq) of cyanamide was placed is isopropanol (800 ml per tool of ethyl trifluoroacetoacetate; EtTFAA) at 50° C. and HCl gas (18.3 g; 500 mmol; 2.0 eq) was passed through the mixture for one hour. When the introduction of HCl had ended, the mixture was stirred for 2 hours at 70° C. It was then allowed to cool to room temperature and 3/4 of the solvent was evaporated off on a rotary evaporator. 80 ml of water (320 ml per mol of ethyl trifluoroacetoacetate) was added at room temperature to the O-isopropylisourea hydrochloride formed. Aqueous NaOH solution (78.87 g; 1.09 eq; 14 percent according to titration) was then added over 5 minutes at room temperature until the pH had shifted from 0.5 to 11.5, and stirring was continued for 15 minutes. The temperature was kept at ≤30° C. during the addition of the NaOH. Ethyl trifluoroacetoacetate (46.5 g; 500 mmol; 1.0 eq) was then added dropwise to this solution at room temperature. The temperature rose to 30° C. during this process and two phases formed. This mixture was refluxed for 2 hours. The organic solvents were then distilled off until the top temperature reached ca. 96° C. Stirring was continued for 2 hours at 85° to 90° C. The light yellow emulsion was allowed to cool to room temperature, the pH of 7.3 was adjusted to 5.0 with a small amount of 2 N aqueous HCl solution and the granular solid was filtered off after 20 minutes at room temperature. The moist solid obtained after filtration was taken up again with distilled water (~1 g moist product/ml water) and refluxed for 1 hour. After cooling to room temperature, filtration and drying, a light yellowish solid of relatively high content was obtained: the total yield was 67.8 percent (content: 98.0 percent according to HPLC). The solid was washed with a small amount of cold water and then dried overnight in a vacuum drying cabinet at 40° C. 41.3 g of a yellowish solid was obtained as the product, corresponding to a yield of 69.8 percent (content: 94.5 percent according to HPLC).

reactant | cyanamide | 263 mmol, 11.25 g, 1.05 eq | N#CN | CH2N2
reactant | HCl | 500 mmol, 18.3 g, 2.0 eq | Cl | ClH
reactant | NaOH | 78.87 g, 1.09 eq | [OH-].[Na+]
reactant | Ethyl trifluoroacetoacetate | 500 mmol, 46.5 g, 1.0 eq | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | isopropanol | 800 ml | C(C)(C)O | C3H8O
product | 2-isopropoxy-6-(trifluoromethyl)pyrimidin-4-ol | 41.3 g, yield of 69.8 percent | C(C)(C)OC1=NC(=CC(=N1)O)C(F)(F)F | C8H9F3N2O2
